US07786132B2
5-(2-(2-(5,5-Dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)-N-methyl-N-(2-(pyrrolidin-1-yl)ethyl)thiophene-2-sulfonamide
A mixture of N-(2-chloroethyl)-5-(2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)-N-methylthiophene-2-sulfonamide (200 mg, 0.41 mmol), pyrrolidine (59 mg, 0.82 mmol) and a catalytic amount of sodium iodide in N-methyl-pyrrolidine (5 mL) was heated at 90° C. overnight. After cooling to rt, 50 mL of brine was added and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (3×80 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the product purified by flash chromatography eluting with methanol (1 M, ammonia)/dichloromethane (1:20) to afford the title compound as a slightly yellow solid (98 mg, 46%). MS (M+H)+ 522.

reactant | N-(2-chloroethyl)-5-(2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)-N-methylthiophene-2-sulfonamide | 0.41 mmol, 200 mg | ClCCN(S(=O)(=O)C=1SC(=CC1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O)C | C18H23ClN6O4S2
reactant | pyrrolidine | 0.82 mmol, 59 mg | N1CCCC1 | C4H9N
reactant | sodium iodide | [I-].[Na+]
solvent | N-methyl-pyrrolidine | 5 mL | CN1CCCC1 | C5H11N
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 5-(2-(2-(5,5-Dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)-N-methyl-N-(2-(pyrrolidin-1-yl)ethyl)thiophene-2-sulfonamide | CC1(C(NC(N1CCNC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)N(CCN1CCCC1)C)=O)=O)C | C22H31N7O4S2
